US06187905B1
A solution of 0.66 ml of (S)-(−)-N-benzyl-α-methylbenzylamine in 10 ml of tetrahydrofuran was cooled to 0° C. and 1.88 ml of a 1.6M solution of n-butyllithium in hexane were added dropwise via a syringe. The resulting dark pink solution was stirred at 0° C. for 45 minutes and then cooled to −78° C. A solution of 0.184 g of tert-butyl (E)-2-heptenoate in 2 ml of anhydrous diethyl ether was added and the mixture was stirred for 2 hours at −78° C. 0.37 g of solid (1S)-(+)-(10-camphorsulphonyl)oxaziridine was added and the mixture was stirred at −78° C. for 1 hour. The mixture was warmed to 0° C. and a saturated ammonium chloride solution was added. The tetrahydrofuran was evaporated and the aqueous phase was diluted with water and extracted with dichloromethane. The organic phase was dried over magnesium sulphate, evaporated and purified by chromatography on silica gel using a 10% solution of diethyl ether in hexane for the elution to give 0.35 g of tert-butyl 3(S)-[N-benzyl-N-(α(S)-methylbenzyl)amino]-2(S)-hydroxyheptanoate as a colorless oil, MS: m/e 412.2 [M+H]+.

reactant | (S)-(−)-N-benzyl-α-methylbenzylamine | 0.66 ml | C(C1=CC=CC=C1)N[C@H](C1=CC=CC=C1)C | C15H17N
reactant | n-butyllithium | C(CCC)[Li]
reactant | tert-butyl (E)-2-heptenoate | 0.184 g | C(\C=C\CCCC)(=O)OC(C)(C)C | C11H20O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
product | tert-butyl 3(S)-[N-benzyl-N-(α(S)-methylbenzyl)amino]-2(S)-hydroxyheptanoate | 0.35 g | C(C1=CC=CC=C1)N([C@H](C1=CC=CC=C1)C)[C@H]([C@@H](C(=O)OC(C)(C)C)O)CCCC | C26H37NO3
